**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Common Mode Power Line Choke
* Matchcode:              WE-CMB 
* Library Type:           Pspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-05-26
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.SUBCKT  CMB    1  2  3  4  PARAMS:
+  L1=605.38e-6
+  L2=100.35e-006
+  L3=42.47e-006
+  L4=10.22e-006
+  L5=36e-009
+  C1=3e-012
+  C2=1e-012
+  Rs1=8828
+  Rs2=1447
+  Rs3=703
+  Rs4=678
+  Rs5=509
+  R2=0.11
+  dL3=310.37e-009
+  dL4=11.06e-009
+  dC3=190.56e-015
+  dC4=7e-012
+  dR3=1000
+  dR4=4500
+  dR5=11000
+  dR6=438
+  Rdc=0.43
+  ck=12.5pF
R_R9  N12325  3  {R2}
R_R8  N13265  N13287  {Rs4}
Kn_K6  L_L11  L_L12  
+  L_L13  L_L14  0.9999
R_R3  N12571  N12583  {Rs3}
R_R10  N13777  4  {R2}
C_C10  N13029  N12821  {ck}
R_R20  N13215  N13229  {dR4}
L_L11  N12821  N12295  {dL4}
R_R17  N12267  N12273  {dR3}
L_L8  N13265  N13287  {L4}
R_R7  N13287  N13305  {Rs3}
L_L9  N12295  N12307  {L5}
Kn_K4  L_L7  L_L8  1
R_R2  N12583  N12599  {Rs2}
Kn_K5  L_L9  L_L10  1
R_R16  N13229  N13249  {dR6}
Kn_K7  L_L15  L_L16  
+  L_L17  L_L18  0.9999
C_C5  N12273  N12289  {dC4}
L_L6  N13287  N13305  {L3}
L_L7  N12307  N12571  {L4}
R_R6  N13305  N13319  {Rs2}
R_R21  1  N12257  {Rdc}
Kn_K3  L_L5  L_L6  1
L_L16  N12257  N12799  {dL3}
C_C8  N13215  N13741  {dC3}
L_L18  N13023  N13215  {dL3}
R_R1  N12599  3  {Rs1}
R_R13  N12289  N12295  {dR5}
L_L4  N13305  N13319  {L2}
L_L5  N12571  N12583  {L3}
R_R15  N13755  N13249  {dR5}
R_R5  N13319  4  {Rs1}
R_R18  N12257  N12273  {dR4}
Kn_K2  L_L3  L_L4  1
R_R19  N13741  N13229  {dR3}
L_L15  N12799  N12273  {dL3}
L_L17  N13229  N13023  {dL3}
L_L3  N12583  N12599  {L2}
R_R11  N12295  N12307  {Rs5}
L_L2  N13319  4  {L1}
C_C4  N13249  N13265  {C2}
L_L10  N13249  N13265  {L5}
Kn_K1  L_L1  L_L2  1
R_R14  N12273  N12295  {dR6}
C_C6  N13229  N13755  {dC4}
L_L12  N12273  N12821  {dL4}
L_L14  N13029  N13229  {dL4}
L_L1  N12599  3  {L1}
C_C1  N12307  N12325  {C1}
R_R12  N13249  N13265  {Rs5}
C_C2  N13265  N13777  {C1}
R_R22  2  N13215  {Rdc}
C_C9  N13023  N12799  {ck}
R_R4  N12307  N12571  {Rs4}
C_C3  N12295  N12307  {C2}
L_L13  N13249  N13029  {dL4}
C_C7  N12257  N12267  {dC3}
.ends  CMB
****
.subckt CMB1 1 2 3 4 PARAMS:
+ L3=1150u
+ Rs3=6.4k
+ C1=12p
+ R2=1
+ L1=0.1p
+ Rs2=700
+ C2=0.1u
+ Rs1=10
+ L2=1u
+ L4=0.01u
+ Rs4=1
+ L5=0.01p
+ Rs5=0.1k
+ dR5=1
+ Rdc=1m
+ ck=3p
+ dR3=1k
+ dR6=2.8k
+ dR4=1k
+ dC3=2.1p
+ dL3=0.2u
+ dC4=1p
+ dL4=0.245u
L5 N009 N008 {L3}
C3 N002 N001 {C1}
L1 4 N010 {L1}
L3 N010 N009 {L2}
L6 N015 N014 {L3}
C4 N024 N013 {C1}
L2 3 N016 {L1}
L4 N016 N015 {L2}
L8 N014 N013 {L4}
L7 N008 N001 {L4}
L9 N001 N007 {L5}
L10 N013 N021 {L5}
R1 N003 1 {Rdc}
R2 N005 N003 {dR4}
C1 N004 N003 {dC3}
L17 N011 N003 {dL3}
L18 N017 N018 {dL3}
C2 N011 N018 {ck}
R3 N005 N004 {dR3}
R4 N019 N022 {dR3}
C9 N022 N017 {dC3}
R5 N019 N017 {dR4}
L19 N005 N011 {dL3}
L20 N018 N019 {dL3}
R6 N017 2 {Rdc}
R8 N007 N005 {dR6}
C10 N006 N005 {dC4}
L13 N012 N005 {dL4}
L14 N019 N020 {dL4}
C11 N012 N020 {ck}
R9 N007 N006 {dR5}
R10 N021 N023 {dR5}
C12 N023 N019 {dC4}
R11 N021 N019 {dR6}
L15 N007 N012 {dL4}
L16 N020 N021 {dL4}
R7 N001 N007 {Rs5}
C5 N001 N007 {C2}
R12 N013 N021 {Rs5}
C6 N013 N021 {C2}
R13 N008 N001 {Rs4}
R14 N009 N008 {Rs3}
R15 N010 N009 {Rs2}
R16 4 N010 {Rs1}
R17 N014 N013 {Rs4}
R18 N015 N014 {Rs3}
R19 N016 N015 {Rs2}
R20 3 N016 {Rs1}
R21 4 N002 {R2}
R22 3 N024 {R2}
K3 L5 L6 1
K2 L3 L4 1
K1 L1 L2 1
K4 L7 L8 1
K5 L9  L10 1
K7 L17 L18 L19 L20 0.9999
K6 L13 L14 L15 L16 0.9999
.ends
****
.subckt CMB_XS_744821201_1m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=386.0734n
+  DL4=15.6647n
+  DC3=1.0228f
+  DC4=3.2534p
+  DR3=70.0106
+  DR4=513.1195
+  DR5=59.9307
+  DR6=269.9901
+  Rdc=0.045
+  ck=7.8120p
+  L1=996.6129u
+  L2=9.9334u
+  L3=2.0045n
+  L4=35.0231n
+  L5=4.9923n
+  C1=3.0554p
+  C2=24.9444p
+  RS1=9.8704k
+  RS2=7.0003k
+  RS3=5.0000k
+  RS4=5.0000k
+  RS5=100.0039
+  R2=80.0114m
.ends CMB_XS_744821201_1m
****
.subckt XS_744821240_4m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.0000017
+  DL4=0.000000035
+  DC3=0.000000000006
+  DC4=0.000000000003
+  DR3=17
+  dR4=11.25k
+  DR5=230
+  dR6=50k
+  Rdc=0.082
+  ck=2pF
+  L1=3.3m
+  L2=0.81m
+  L3=23u
+  L4=40u
+  L5=570.4n
+  C1=12.2p
+  C2=1
+  Rs1=19.5k
+  Rs2=29k
+  RS3=500
+  RS4=600
+  RS5=2000
+  R2=10.41
.ends XS_744821240_4m
****
.subckt CMB_XS_744821150_5m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=1.8e-006
+  dL4=64e-009
+  dC3=12.5e-012
+  dC4=5e-012
+  dR3=17
+  dR4=15k
+  dR5=30
+  dR6=2k
+  Rdc=0.168
+  ck=2pF
+  L1=3.6m
+  L2=0.8m
+  L3=23u
+  L4=4u
+  L5=800.4n
+  C1=11.5p
+  C2=4p
+  Rs1=19k
+  Rs2=19k
+  Rs3=500
+  Rs4=200
+  Rs5=2500
+  R2=1
.ends CMB_XS_744821150_5m
****
.subckt CMB_XS_744821110_10m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=5.2e-006
+  dL4=5e-009
+  dC3=22e-012
+  dC4=6e-012
+  dR3=17
+  dR4=25k
+  dR5=30k
+  dR6=5k
+  Rdc=0.266
+  ck=6pF
+  L1=8.8m
+  L2=0.180m
+  L3=23u
+  L4=4u
+  L5=520.4n
+  C1=14p
+  C2=10p
+  Rs1=69k
+  Rs2=20k
+  Rs3=500
+  Rs4=200
+  Rs5=800
+  R2=1
.ends CMB_XS_744821110_10m
****
.subckt CMB_XS_744821120_20m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=11e-006
+  dL4=7e-009
+  dC3=19e-012
+  dC4=1e-012
+  dR3=17
+  dR4=30k
+  dR5=30
+  dR6=8k
+  Rdc=0.779
+  ck=12pF
+  L1=19.8m
+  L2=1.8m
+  L3=23u
+  L4=4u
+  L5=2.920u
+  C1=11p
+  C2=15p
+  Rs1=129k
+  Rs2=20k
+  Rs3=500
+  Rs4=200
+  Rs5=2200
+  R2=20.41
.ends CMB_XS_744821120_20m
****
.subckt CMB_XS_744821039_39m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=22e-006
+  dL4=225e-009
+  dC3=27e-012
+  dC4=38e-012
+  dR3=17
+  dR4=127k
+  dR5=23
+  dR6=1.5k
+  Rdc=1.905
+  ck=3pF
+  L1=37.5m
+  L2=1.8m
+  L3=23u
+  L4=4u
+  L5=630n
+  C1=27p
+  C2=90p
+  Rs1=499k
+  Rs2=29k
+  Rs3=500
+  Rs4=200
+  Rs5=1000
+  R2=1
.ends CMB_XS_744821039_39m
****
.subckt CMB_S_744822301_1m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  L1=605.38e-6
+  L2=100.35e-006
+  L3=42.47e-006
+  L4=10.22e-006
+  L5=36e-009
+  C1=3e-012
+  C2=1e-012
+  Rs1=8828
+  Rs2=1447
+  Rs3=703
+  Rs4=678
+  Rs5=509
+  R2=0.11
+  dL3=310.37e-009
+  dL4=11.06e-009
+  dC3=190.56e-015
+  dC4=7e-012
+  dR3=1000
+  dR4=4500
+  dR5=11000
+  dR6=438
+  Rdc=0.021
+  ck=12.5pF
.ends CMB_S_744822301_1m
****
.subckt CMB_S_744822233_3m3 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=1.4e-006
+  dL4=3e-009
+  dC3=8.3e-012
+  dC4=2e-012
+  dR3=17
+  dR4=22k
+  dR5=30
+  dR6=2k
+  Rdc=0.079
+  ck=3pF
+  L1=3m
+  L2=0.58m
+  L3=23u
+  L4=4u
+  L5=210.4n
+  C1=8p
+  C2=8p
+  Rs1=38k
+  Rs2=6k
+  Rs3=500
+  Rs4=200
+  Rs5=1200
+  R2=1.41
.ends CMB_S_744822233_3m3
****
.subckt CMB_S_744822110_10m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=3.5e-006
+  dL4=104e-009
+  dC3=19.2e-012
+  dC4=19e-012
+  dR3=17
+  dR4=27k
+  dR5=30
+  dR6=12k
+  Rdc=0.236
+  ck=4pF
+  L1=11.6m
+  L2=800u
+  L3=23u
+  L4=4u
+  L5=1.8u
+  C1=14.5p
+  C2=8p
+  Rs1=79k
+  Rs2=19k
+  Rs3=500
+  Rs4=200
+  Rs5=5000
+  R2=10.41
.ends CMB_S_744822110_10m
****
.subckt CMB_S_744822120_20m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=6.8e-006
+  dL4=10e-009
+  dC3=32e-012
+  dC4=3e-012
+  dR3=17
+  dR4=27k
+  dR5=30
+  dR6=2k
+  Rdc=0.355
+  ck=10pF
+  L1=16.6m
+  L2=800u
+  L3=23u
+  L4=4u
+  L5=80.4n
+  C1=26.5p
+  C2=28p
+  Rs1=340k
+  Rs2=19k
+  Rs3=500
+  Rs4=200
+  Rs5=800
+  R2=1.41
.ends CMB_S_744822120_20m
****
.subckt CMB_M_744823305_5m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  L1=0.0000149932488790583
+  L2=0.0000219946000050973
+  L3=0.0000734873979778146
+  L4=0.00545630375790193
+  L5=0.0938962438216997e-008
+  C1=1.50319062754058e-011
+  C2=5.341200990649e-012
+  Rs1=5265.31166846459
+  Rs2=7902.70514846992
+  Rs3=1651.19231206434
+  Rs4=39361.136544689
+  Rs5=9214.69726890499
+  R2=0.109490257696781
+  dL3=1.7e-006
+  dL4=20e-009
+  dC3=33e-012
+  dC4=60e-012
+  dR3=4
+  dR4=1120
+  dR5=6
+  dR6=800
+  Rdc=60.229m
+  ck=4pF
.ends CMB_M_744823305_5m
****
.subckt CMB_M_744823601_1m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=242.33e-009
+  dC3=10e-012
+  dL4=10.79e-009
+  dC4=4.21e-012
+  dR3=10
+  dR4=3300
+  dR5=173
+  dR6=2705
+  Rdc=8.952m
+  ck=2.005pF
+  L1=18.49e-006
+  L2=39e-006
+  L3=19e-006
+  L4=900e-6
+  L5=18.69e-009
+  C1=3.05e-012
+  C2=4.15e-012
+  Rs1=745
+  Rs2=200
+  Rs3=332
+  Rs4=3200
+  Rs5=362
+  R2=11
.ends CMB_M_744823601_1m
****
.subckt CMB_M_744823422_2m2 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  L1=3m
+  L2=800.72u
+  L3=523.19u
+  L4=242.84u
+  L5=42.11n
+  C1=3.43p
+  C2=4.39p
+  Rs1=7554
+  Rs2=1544
+  Rs3=1544
+  Rs4=2457
+  Rs5=561
+  R2=39
+  dL3=532.17n
+  dC3=11.33p
+  dL4=27.79n
+  dC4=4.13p
+  dR3=28
+  dR4=10212
+  dR5=23
+  dR6=2190
+  Rdc=24.288m
+  ck=2p
.ends CMB_M_744823422_2m2
****
.subckt CMB_M_744823333_3m3 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=838.8e-009
+  dC3=12.4e-012
+  dL4=40.38e-009
+  dC4=6.73e-012
+  dR3=0.21
+  dR4=7180
+  dR5=45
+  dR6=1197
+  Rdc=45.566m
+  ck=2.005pF
+  L1=2m
+  L2=387.66e-6
+  L3=219.25e-6
+  L4=7228e-6
+  L5=82e-009
+  C1=3.68e-012
+  C2=3.59e-012
+  Rs1=549
+  Rs2=539
+  Rs3=539
+  Rs4=18717
+  Rs5=756
+  R2=39
.ends CMB_M_744823333_3m3
****
.subckt CMB_M_744823210_10m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=2.68e-006
+  dC3=26e-012
+  dL4=76.74e-009
+  dC4=32e-012
+  dR3=1.43
+  dR4=11000
+  dR5=0.019
+  dR6=1052
+  Rdc=99.542m
+  ck=2.005pF
+  L1=10m
+  L2=2m
+  L3=203u
+  L4=104u
+  L5=900.4n
+  C1=16.7p
+  C2=20p
+  Rs1=48k
+  Rs2=29k
+  Rs3=5k
+  Rs4=5k
+  Rs5=2k
+  R2=40.41
.ends CMB_M_744823210_10m
****
.subckt CMB_M_744823220_20m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=6.2e-006
+  dL4=95e-009
+  dC3=32e-012
+  dC4=60e-012
+  dR3=17
+  dR4=30k
+  dR5=23
+  dR6=4k
+  Rdc=216.759m
+  ck=3pF
+  L1=19m
+  L2=59e-6
+  L3=92e-006
+  L4=21e-006
+  L5=124e-009
+  C1=22e-012
+  C2=30e-12
+  Rs1=124k
+  Rs2=199k
+  Rs3=561
+  Rs4=915
+  Rs5=894
+  R2=1
.ends CMB_M_744823220_20m
****
.subckt CMB_L_744824101_1m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=405.34e-009
+  dC3=19.07e-012
+  dL4=16.75e-009
+  dC4=3.82e-012
+  dR3=10
+  dR4=4300
+  dR5=0.63
+  dR6=1750
+  Rdc=6.372m
+  ck=2.005pF
+  L1=1723.84e-6
+  L2=898.76e-6
+  L3=151.48e-6
+  L4=197.70e-6
+  L5=126.80e-009
+  C1=8.32e-012
+  C2=5.48e-012
+  Rs1=565
+  Rs2=470
+  Rs3=557
+  Rs4=2992
+  Rs5=643
+  R2=0.56
.ends CMB_L_744824101_1m
****
.subckt CMB_L_744824622_2m2 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=682.42e-009
+  dC3=13.67e-012
+  dL4=29e-009
+  dC4=9.71e-012
+  dR3=0.02
+  dR4=6278
+  dR5=28
+  dR6=821
+  Rdc=16.345m
+  ck=2pF
+  L1=8.97e-006
+  L2=163.74e-6
+  L3=137.44e-6
+  L4=4431.91e-6
+  L5=106.39e-009
+  C1=3.99e-012
+  C2=2.11e-012
+  Rs1=10
+  Rs2=943
+  Rs3=928
+  Rs4=8391
+  Rs5=765
+  R2=4
.ends CMB_L_744824622_2m2
****
.subckt CMB_L_744824433_3m3 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=1u
+  dL4=50.25n
+  dC3=15.595p
+  dC4=8.4p
+  dR3=0.1
+  dR4=8k
+  dR5=0.1
+  dR6=900
+  Rdc=28.429m
+  ck=2pF
+  L1=1.023e-006
+  L2=139.29e-6
+  L3=178.37e-6
+  L4=992.18e-6
+  L5=78.30e-009
+  C1=4.71e-012
+  C2=6.84e-012
+  Rs1=504
+  Rs2=500
+  Rs3=545
+  Rs4=11862
+  Rs5=676
+  R2=11
.ends CMB_L_744824433_3m3
****
.subckt CMB_L_744824220_20m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=7.7e-006
+  dL4=485e-009
+  dC3=28e-012
+  dC4=11e-012
+  dR3=17
+  dR4=50k
+  dR5=30
+  dR6=5k
+  Rdc=175.322m
+  ck=5pF
+  L1=18.2m
+  L2=0.7m
+  L3=23u
+  L4=4u
+  L5=2.2u
+  C1=32p
+  C2=23p
+  Rs1=46k
+  Rs2=39k
+  Rs3=500
+  Rs4=600
+  Rs5=3000
+  R2=10.41
.ends CMB_L_744824220_20m
****
.subckt CMB_L_744824310_10m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  L1=0.00975054658861754
+  L2=1.14140874719913e-006
+  L3=1.94215546747162e-005
+  L4=1.85397202790917e-006
+  L5=1.37528846983612e-006
+  C1=1.06648809782419e-011
+  C2=15.48753174459246e-012
+  Rs1=68798.4459196234
+  Rs2=49005.5273080916
+  Rs3=4486.623455664182
+  Rs4=361.356712407375
+  Rs5=1960.56329938029
+  R2=11.2784542155485
+  dL3=33.3880176803062e-007
+  dC3=15.1444689487349e-012
+  dL4=4.03878815013849e-09
+  dC4=6.73761021204444e-012
+  dR3=0.717429786820428
+  dR4=17180.66797667093
+  dR5=55.0109730646157
+  dR6=3197.74941444441
+  Rdc=85.225m
+  ck=4pF
.ends CMB_L_744824310_10m
****
.subckt CMB_XL_7448251201_1m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=300e-009
+  dC3=10e-012
+  dL4=9.51e-009
+  dC4=4.63e-012
+  dR3=0.18
+  dR4=2680
+  dR5=0.78
+  dR6=366
+  Rdc=5.598m
+  ck=5pF
+  L1=220e-6
+  L2=190e-6
+  L3=220e-6
+  L4=640e-6
+  L5=13.98e-009
+  C1=3.35e-012
+  C2=5.31e-012
+  Rs1=560
+  Rs2=550
+  Rs3=1500
+  Rs4=798
+  Rs5=269
+  R2=7
.ends CMB_XL_7448251201_1m
****
.subckt CMB_XL_7448258022_2m2 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=0.58e-006
+  dL4=25e-009
+  dC3=16.5e-012
+  dC4=10e-012
+  dR3=17
+  dR4=7k
+  dR5=23
+  dR6=3k
+  Rdc=11.1m
+  ck=1pF
+  L1=1.8m
+  L2=80u
+  L3=23u
+  L4=4u
+  L5=135n
+  C1=4.5p
+  C2=1.5p
+  Rs1=4000
+  Rs2=1600
+  Rs3=1500
+  Rs4=200
+  Rs5=800
+  R2=1
.ends CMB_XL_7448258022_2m2
****
.subckt CMB_XL_7448256033_3m3 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=0.85e-006
+  dL4=58e-009
+  dC3=14.4e-012
+  dC4=1e-012
+  dR3=17
+  dR4=9k
+  dR5=23
+  dR6=2k
+  Rdc=18.752m
+  ck=4pF
+  L1=2.6m
+  L2=700u
+  L3=23u
+  L4=4u
+  L5=110.4n
+  C1=5p
+  C2=2.8p
+  Rs1=16k
+  Rs2=6k
+  Rs3=500
+  Rs4=600
+  Rs5=900
+  R2=10.41
.ends CMB_XL_7448256033_3m3
****
.subckt CMB_XL_744825605_5m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=1.33e-006
+  dC3=17.75e-012
+  dL4=39.77e-009
+  dC4=24.87e-012
+  dR3=13
+  dR4=7090
+  dR5=13
+  dR6=6762
+  Rdc=35.042m
+  ck=2pF
+  L1=346.16e-6
+  L2=250.28e-6
+  L3=256.26e-6
+  L4=651.36e-6
+  L5=108.7e-009
+  C1=5.15e-012
+  C2=8.74e-012
+  Rs1=2558
+  Rs2=2548
+  Rs3=6527
+  Rs4=2609
+  Rs5=674
+  R2=15
.ends CMB_XL_744825605_5m
****
.subckt CMB_XL_744825510_10m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=2.7e-006
+  dL4=81e-009
+  dC3=37e-012
+  dC4=5e-012
+  dR3=17
+  dR4=30k
+  dR5=23
+  dR6=12k
+  Rdc=40.604m
+  ck=5pF
+  L1=8m
+  L2=1m
+  L3=23u
+  L4=4u
+  L5=600.4n
+  C1=22p
+  C2=16p
+  Rs1=60k
+  Rs2=6000
+  Rs3=500
+  Rs4=600
+  Rs5=1600
+  R2=1.41
.ends CMB_XL_744825510_10m
****
.subckt CMB_XL_744825320_20m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  dL3=5.9e-006
+  dL4=140e-009
+  dC3=36e-012
+  dC4=46e-012
+  dR3=17
+  dR4=35k
+  dR5=23
+  dR6=9k
+  Rdc=123.197m
+  ck=5pF
+  L1=16m
+  L2=580u
+  L3=23u
+  L4=4u
+  L5=900.4n
+  C1=31p
+  C2=48p
+  Rs1=62k
+  Rs2=6k
+  Rs3=500
+  Rs4=600
+  Rs5=1600
+  R2=1.41
.ends CMB_XL_744825320_20m
****
.subckt CMB_XL_744825433_33m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  L1=0.0282615082580083
+  L2=0.00151069974592023
+  L3=6.35319123130355e-005
+  L4=80.28619201606786e-006
+  L5=8.4783967316618e-007
+  C1=3.31973088954225e-011
+  C2=8.99664633755108e-011
+  Rs1=271189.203553144
+  Rs2=68603.4021105262
+  Rs3=958.938477130436
+  Rs4=557.325344506158
+  Rs5=1527.4005919289
+  R2=54.5016446977904
+  dL3=98.3880176803062e-007
+  dC3=4.9444689487349e-011
+  dL4=20.03878815013849e-008
+  dC4=41.73761021204444e-012
+  dR3=0.217429786820428
+  dR4=19180.66797667093
+  dR5=39.0109730646157
+  dR6=5197.74941444441
+  Rdc=187.34m
+  ck=4pF
.ends CMB_XL_744825433_33m
****
.subckt CMB_XXL_7448262510_1m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  L1=308.89e-006
+  L2=390.29e-006
+  L3=50e-06
+  L4=50e-06
+  L5=325.26e-006
+  C1=21.80e-012
+  C2=5.27e-012
+  Rs1=3140
+  Rs2=2206
+  Rs3=3254
+  Rs4=4188
+  Rs5=3190
+  R2=0.054
+  dL3=490e-009
+  dC3=12.9e-012
+  dL4=37.11e-009
+  dC4=0.07e-012
+  dR3=0.48
+  dR4=3680
+  dR5=18
+  dR6=366
+  Rdc=3.427m
+  ck=4pF
.ends CMB_XXL_7448262510_1m
****
.subckt CMB_XXL_7448261418_1m8 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  L1=1408.89e-006
+  L2=390.29e-006
+  L3=50e-06
+  L4=50e-06
+  L5=125.26e-006
+  C1=9.80e-012
+  C2=9.87e-012
+  Rs1=8140
+  Rs2=8206
+  Rs3=3254
+  Rs4=4188
+  Rs5=2500
+  R2=0.054
+  dL3=940e-009
+  dC3=17.6e-012
+  dL4=51.11e-009
+  dC4=2.33e-012
+  dR3=0.48
+  dR4=6680
+  dR5=0.58
+  dR6=566
+  Rdc=7.79m
+  ck=4pF
.ends CMB_XXL_7448261418_1m8
****
.subckt CMB_XXL_7448262013_1m3 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  L1=608.89e-006
+  L2=590.29e-006
+  L3=50e-06
+  L4=10e-06
+  L5=125.26e-006
+  C1=10.80e-012
+  C2=6.87e-012
+  Rs1=4140
+  Rs2=2206
+  Rs3=2254
+  Rs4=3188
+  Rs5=2100
+  R2=0.054
+  dL3=620e-009
+  dC3=14.8e-012
+  dL4=38.11e-009
+  dC4=2.13e-012
+  dR3=0.48
+  dR4=4680
+  dR5=0.58
+  dR6=446
+  Rdc=4.8m
+  ck=4pF
.ends CMB_XXL_7448262013_1m3
****
.subckt CMB_XXL_7448263505_0m5 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  L1=0.000209496782810346
+  L2=0.000207729580657503
+  L3=0.000244939980673891
+  L4=4.35416881861321e-006
+  L5=18.19552706596632e-006
+  C1=72.2232517664312e-012
+  C2=67.49668610882662e-012
+  Rs1=12.914504794244
+  Rs2=2355.13991346187
+  Rs3=1395.50992687538
+  Rs4=13415.8487785026
+  Rs5=260.107405675112
+  R2=40.2708746893173
+  dL3=230e-009
+  dC3=10.6e-012
+  dL4=12.11e-009
+  dC4=0.33e-012
+  dR3=0.48
+  dR4=1580
+  dR5=0.58
+  dR6=166
+  Rdc=1.84m
+  ck=4pF
.ends CMB_XXL_7448263505_0m5
****
.subckt CMB_S_744822222_2m2 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.68u
+  DL4=3n
+  DC3=8.3p
+  DC4=2p
+  DR3=17
+  dR4=6k
+  DR5=30
+  dR6=2k
+  Rdc=0.079
+  ck=3pF
+  L1=1.75m
+  L2=0.58m
+  L3=23u
+  L4=4u
+  L5=210.4n
+  C1=6.5p
+  C2=8p
+  Rs1=17.5k
+  Rs2=6k
+  RS3=500
+  RS4=200
+  RS5=1200
+  R2=1.41
.ends CMB_S_744822222_2m2
****
.subckt CMB_L_744824407_7m 1 2 3 4
X1  1  2  3  4  CMB  PARAMS:
+  DL3=0.00000228242
+  DC3=0.00000000001367
+  DL4=0.000000159
+  DC4=0.00000000000971
+  DR3=0.02
+  DR4=8278
+  DR5=28
+  DR6=821
+  Rdc=16.345m
+  ck=2pF
+  L1=0.00000897
+  L2=0.00016374
+  L3=0.00221744
+  L4=0.00443191
+  L5=0.00000010639
+  C1=0.00000000002399
+  C2=0.00000000001211
+  RS1=10
+  RS2=943
+  RS3=30928
+  RS4=30391
+  RS5=765
+  R2=4
.ends CMB_L_744824407_7m
****
.subckt CMB_L_744824801_1m  1 2 3 4
X1  1  2  3  4  CMB1  PARAMS:
+ L3=1150u
+ Rs3=6.4k
+ C1=12p
+ R2=1
+ L1=0.1p
+ Rs2=700
+ C2=0.1u
+ Rs1=10
+ L2=1u
+ L4=0.01u
+ Rs4=1
+ L5=0.01p
+ Rs5=0.1k
+ dR5=1
+ Rdc=1m
+ ck=3p
+ dR3=1k
+ dR6=2.8k
+ dR4=1k
+ dC3=2.1p
+ dL3=0.2u
+ dC4=1p
+ dL4=0.245u
.ends
****
.subckt CMB_XL_744825410_10m  1 2 3 4
X1  1  2  3  4  CMB1  PARAMS:
+ L3=10m
+ Rs3=116.4k
+ C1=32p
+ R2=1
+ L1=0.1p
+ Rs2=700
+ C2=0.1u
+ Rs1=10
+ L2=1u
+ L4=0.01u
+ Rs4=1
+ L5=0.01p
+ Rs5=0.1k
+ dR5=1
+ Rdc=1m
+ ck=8p
+ dR3=1.1k
+ dR6=10.1k
+ dR4=1.1k
+ dC3=10.1p
+ dL3=0.30u
+ dC4=1p
+ dL4=2.4u
.ends
****
.subckt CMB_L_744824405_5m  1 2 3 4
X1  1  2  3  4  CMB1  PARAMS:
+ L3=5.6m
+ Rs3=44.0k
+ C1=14.5p
+ R2=1
+ L1=0.1p
+ Rs2=100
+ C2=0.1u
+ Rs1=10
+ L2=1u
+ L4=0.01u
+ Rs4=1
+ L5=0.01p
+ Rs5=0.01k
+ dR5=1
+ Rdc=1m
+ ck=5p
+ dR3=2.1k
+ dR6=23.4k
+ dR4=1.1k
+ dC3=10p
+ dL3=0.60u
+ dC4=0.8p
+ dL4=1.0u
.ends